US05506235
A. N-(4-chlorophenyl)-6-methoxy-2-phenylquinolin-4-amine Hydrochloride Hydrate
In a manner similar to that described in Example 35, part A, 4-chloro-6-methoxy-2-phenylquinoline and 4-chloroaniline were transformed into 1.2 g (80%) of the title compound: m.p.>250° C.

reactant | 4-chloro-6-methoxy-2-phenylquinoline | ClC1=CC(=NC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C16H12ClNO
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | N-(4-chlorophenyl)-6-methoxy-2-phenylquinolin-4-amine Hydrochloride Hydrate | 1.2 g, 80% | O.Cl.ClC1=CC=C(C=C1)NC1=CC(=NC2=CC=C(C=C12)OC)C1=CC=CC=C1 | InChI=1S/C22H17ClN2O.ClH.H2O/c1-26-18-11-12-20-19(13-18)22(24-17-9-7-16(23)8-10-17)14-21(25-20)15-5-3-2-4-6-15;;/h2-14H,1H3,(H,24,25);1H;1H2
